US07595397B2
2.3 g of 3-phenyl-piperazine-2,5-dione were suspended in anhydrous THF under nitrogen and cooled in an ice-bath. 4 equiv. of lithium aluminium hydride were added. The reaction was stirred at 0° C. for 0.5 h, and then heated to reflux overnight. The reaction was quenched by the subsequent addition of 1 mL/gLiAlH4 of water, 1 mL/gLiAlH4 of 5% aqueous Sodium hydroxide solution and 3 mL/gLiAlH4 of water. The resulting solid were separated by filtration through Celite and rinsed with ethyl acetate. The filtrate was concentrated in vacuo to afford 2 g of 2-phenylpiperazine as brown oil. ES MS (+) m/z 163

reactant | 3-phenyl-piperazine-2,5-dione | 2.3 g | C1(=CC=CC=C1)C1C(NCC(N1)=O)=O | C10H10N2O2
reactant | lithium aluminium hydride | 4 equiv. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | 2-phenylpiperazine | 2 g | C1(=CC=CC=C1)C1NCCNC1 | C10H14N2
